US08377957B2
4-Chloro-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol (2.0 g, 5.9 mmol) and ammonia (30 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated at 150° C. for two days. An analysis by LC/MS indicated the reaction was incomplete, and the vessel was sealed and heated at 165° C. for three days. The volatiles were removed under reduced pressure, and the residue was purified twice by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane in a gradient from 0:0:100 to 0.5:9.5:90). The resulting white solid was mixed with acetonitrile, isolated by filtration, and dried overnight under vacuum to provide 4-amino-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol as a white solid, mp greater than 260° C.

reactant | 4-Chloro-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol | 5.9 mmol, 2.0 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=C(C=C2)OC)O | C18H14ClN3O2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-2-ol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC=C(C=C2)OC)O | C18H16N4O2
